US07790751B2
A suspension of 3-(1-naphthylsulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole (51.8 mg, 0.132 mmol) in 1,2-dichloroethane was treated portionwise with phenacetaldehyde (0.2 mL, 0.2 mmol) and acetic acid (0.2 mL, 4 mmol), stirred for one hour at ambient temperature under nitrogen, treated with sodium triacetoxyborohydride (49.1 mg, 0.232 mmol), stirred for 2.5 hours, treated with sodium triacetoxyborohydride (37.5 mg, 0.177 mmol), stirred for 2.5 hours, poured into 1.0 N sodium hydroxide and extracted with chloroform. The extracts were combined, washed with brine, dried over anhydrous magnesium sulfate and concentrated in vacuo. The resultant residue was purified by flash chromatography using 100% chloroform and 0.05-0.2% ammonium hydroxide/0.5-2.0% methanol in chloroform to yield 3-(1-naphthylsulfonyl)-5-{[1-(2-phenylethyl)pyrrolidin-3-yl]oxy}-1H-indazole as a light yellow semi-solid, 24.6 mg (36.5% yield). The semi-solid was dissolved in methanol and chloroform, treated with isopropanolic HCl and concentrated in vacuo at 82° C. for 12 hours to give the title product as a brown foam, 24.6 mg, Mass spectrum (+ES, [M+H]+) m/z 498. 1HNMR (500 MHz, DMSO-d6): δ14.24 (d, 1H, J=4.88 Hz), 10.59-10.90 (m*, 1H), 8.77-8.79 (m, 1H), 8.59-8.60 (m, 1H), 8.31 (d, 1H, J=8.24 Hz), 8.07 (d, 1H, J=8.09 Hz), 7.75-7.78 (m, 1H), 7.60-7.68 (m, 3H), 7.24-7.37 (m, 6H), 7.15-7.19 (m, 1H), 5.25-5.31 (m*, 1H), 3.74-4.02 (m*, 2H), 3.31-3.55 (m*, 4H), 3.01-3.04 (m, 2H), 2.08-2.63 ppm (m*, 2H). *Conformational isomers due to protonation of tertiary amine.

reactant | 3-(1-naphthylsulfonyl)-5-(pyrrolidin-3-yloxy)-1H-indazole | 0.132 mmol, 51.8 mg | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CNCC1 | C21H19N3O3S
reactant | phenacetaldehyde | 0.2 mmol, 0.2 mL | C1=CC=C(C=C1)CC=O | C8H8O
reactant | acetic acid | 4 mmol, 0.2 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.232 mmol, 49.1 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium triacetoxyborohydride | 0.177 mmol, 37.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydroxide | 1.0 N | [OH-].[Na+]
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 3-(1-naphthylsulfonyl)-5-{[1-(2-phenylethyl)pyrrolidin-3-yl]oxy}-1H-indazole | 36.5% yield | C1(=CC=CC2=CC=CC=C12)S(=O)(=O)C1=NNC2=CC=C(C=C12)OC1CN(CC1)CCC1=CC=CC=C1 | C29H27N3O3S
